* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1225.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N002 10K
R2 0 N005 10K
R3 N002 N001 1K
R4 N005 N007 1K
R5 N007 N006 1K
R6 N001 N003 1K
R7 N004 N006 250
R8 N003 N004 250
C1 N004 0 250p
V4 IN+ 0 SINE(0 1 2Meg)
V3 IN- IN+ SINE(0 10m 20Meg)
X§U1 IN+ N006 +V -V N007 LT1225
X§U2 N005 N002 +V -V OUT LT1225
X§U3 IN- N003 +V -V N001 LT1225
.tran 2u
* 20MHz, Av=50 Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
